US08835451B2
A. {4-[4-(2-Azidoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester
To a solution of {4-[4-(2-bromoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester (166 mg, 0.451 mmol) in acetone/water (4:1, v/v, 5 mL) is added NaN3 (44 mg, 0.676 mmol) and the mixture is stirred at ambient temperature for 2 h. Water (10 mL) is added and EtOAc is used to extract. The organic phase is dried with MgSO4, concentrated, and dried under high vacuum to give the title compound (154 mg): 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.05-1.16 (m, 2H) 1.20 (t, J=7.07 Hz, 3H) 1.40-1.49 (m, 2H) 1.84 (d, J=10.11 Hz, 4H) 1.76-1.87 (m, 1H) 2.17 (d, J=6.82 Hz, 2H) 2.48 (tt, J=112.25, 3.03 Hz, 1H) 4.08 (q, J=7.16 Hz, 2H) 4.45 (s, 2H) 7.25 (d, J=8.34 Hz, 2H) 7.76 (d, J=8.34 Hz, 2H).

reactant | {4-[4-(2-bromoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | 0.451 mmol, 166 mg | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C(CBr)=O)=O | C18H23BrO3
reactant | NaN3 | 0.676 mmol, 44 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | 10 mL | O | H2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetone water | 5 mL | CC(=O)C.O
product | {4-[4-(2-Azidoacetyl)-phenyl]-cyclohexyl}-acetic acid ethyl ester | 154 mg | C(C)OC(CC1CCC(CC1)C1=CC=C(C=C1)C(CN=[N+]=[N-])=O)=O | C18H23N3O3
